US04517187
To a stirred solution of cis-1,3,4,6,7,11b-hexahydro-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride (7.8 g, 0.023 m) and triethylamine (9.4 g, 0.093 m) in chloroform (100 ml) maintained at 0° under nitrogen was added dropwise hexanoyl chloride (4.79 g, 0.0356 m). The mixture was allowed to warm to ambient temperature and stirred for 3 hours, then treated with 10% HCl (25 ml). The layers were separated and the organic phase washed with 10% HCl (2×25 ml), water and dried over MgSO4. Evaporation of the solvent gave an oily residue which was dissolved in tetrahydrofuran and a white solid crystallized which was collected by filtration to give 6.4 g of cis-1,3,4,6,7,11b-hexahydro-2-hexanoyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline, m.p. 163°-164.5°. An additional 3.1 g of good purity product was recovered from the tetrahydrofuran to give a total of 9.5 g.

reactant | cis-1,3,4,6,7,11b-hexahydro-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride | 7.8 g | Cl.Cl.C1(=CC=CC=C1)[C@@H]1CN2[C@H](C3=CC=CC=C13)CNCC2
reactant | triethylamine | 9.4 g | C(C)N(CC)CC | C6H15N
reactant | hexanoyl chloride | 4.79 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | HCl | 25 ml | Cl | ClH
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | cis-1,3,4,6,7,11b-hexahydro-2-hexanoyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline | 6.4 g | C(CCCCC)(=O)N1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)CC1 | C24H30N2O
